US05128355
2-n-Butyl-4,5-dicyano-1-(4-nitrobenzyl)imidazole was prepared from 2-n-butyl-4,5-dicyanoimidazole by the procedure in Example 1, Part A using 4-nitrobenzyl bromide as the alkylating agent. The product was obtained as an oil. NMR (200 MHz, CDCl3) δ 8.29 (d, 2H, J=10Hz); 7.29 (d, 2H, J=10Hz); 5.36 (s, 2H); 2.67 (t, 2H, J=7Hz); 1.70 (t of t, 2H, J=7,7Hz); 1.36 (t of q, 2H, J=7,7Hz); 0.86 (t, 3H, J=7Hz). Mass Calcd. for C16H15N5O2 :309.1225. Found: 309.1211.

reactant | 2-n-butyl-4,5-dicyanoimidazole | C(CCC)C=1NC(=C(N1)C#N)C#N | C9H10N4
reactant | 4-nitrobenzyl bromide | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
product | 2-n-Butyl-4,5-dicyano-1-(4-nitrobenzyl)imidazole | C(CCC)C=1N(C(=C(N1)C#N)C#N)CC1=CC=C(C=C1)[N+](=O)[O-] | C16H15N5O2
